US04576905
1-Chloro-5,6-dimethoxy-2,1,3-benzoxatellurazole-N-oxide C8H8ClNO4Te mw=345.21
3,4-Dimethoxyphenyltellurium trichloride (74 g=0.2 mole) was suspended in glacial acetic acid (200 ml) in a 1500 ml Erlenmeyer flask. Nitric acid (18 g of 70%=0.2 mole) was added gradually to the stirred mixture, which caused formation of a clear, red solution and a mildly exothermic reaction. Stirring was continued for one hour at room temperature, then ethanol (1000 ml) and hypophosphorous acid (24.0 g of 50 weight percent aqueous) were added in order. Over a period of 30 minutes there occurred crystallization of a red solid, which was collected by filtration to give 47.3 g, 68.8% of theory, m.p. 199°-200° C. The material was identical to product isolated by procedure A. Elemental analyses were in agreement with that calculated for the structural formula.

reactant | 3,4-Dimethoxyphenyltellurium trichloride | 0.2 mole, 74 g | COC=1C=C(C=CC1OC)[Te](Cl)(Cl)Cl | C8H9Cl3O2Te
reactant | Nitric acid | 0.2 mole, 18 g | [N+](=O)(O)[O-] | HNO3
reactant | ethanol | 1000 ml | C(C)O | C2H6O
reactant | hypophosphorous acid | 24.0 g | [PH2](=O)O | H3O2P
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 1-Chloro-5,6-dimethoxy-2,1,3-benzoxatellurazole-N-oxide | Cl[TeH]1O[NH+](C2=C1C=C(C(=C2)OC)OC)[O-] | C8H10ClNO4Te
